US06627630B1
Production of 6-[6-[4-(Diphenylmethyl)-1-piperazinyl]hexyloxy]-7-methyl[1,2,4]triazolo[1,5-b]pyridazine Dihydrochloride
210 mg of 60% sodium hydride in oil was suspended in 15 ml of tetrahydrofuran; 0.91 g of 4-(diphenylmethyl)-1-piperazinehexanol was added, followed by heating and refluxing for 1 hour. After cooling, 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine was added, followed by heating and refluxing for 3 hours. After cooling, ice water was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with dichloromethane-ethyl acetate-methanol (1.0:10:1). The desired fraction was collected and dissolved in 5 ml of ethyl acetate; 1.44 ml of a 4 N hydrogen chloride solution in ethyl acetate was added; the crystal precipitated was collected by filtration, washed with ethyl ether and dried to yield 1.06 g of the title compound, which was then recrystallized from ethanol.

reactant | sodium hydride | 210 mg | [H-].[Na+]
reactant | 4-(diphenylmethyl)-1-piperazinehexanol | 0.91 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCCCCCO)C1=CC=CC=C1 | C23H32N2O
reactant | 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | ClC=1C(=CC=2N(N1)N=CN2)C | C6H5ClN4
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 6-[6-[4-(Diphenylmethyl)-1-piperazinyl]hexyloxy]-7-methyl[1,2,4]triazolo[1,5-b]pyridazine Dihydrochloride | 1.06 g | Cl.Cl.C1(=CC=CC=C1)C(N1CCN(CC1)CCCCCCOC=1C(=CC=2N(N1)N=CN2)C)C2=CC=CC=C2 | InChI=1S/C29H36N6O.2ClH/c1-24-22-27-30-23-31-35(27)32-29(24)36-21-11-3-2-10-16-33-17-19-34(20-18-33)28(25-12-6-4-7-13-25)26-14-8-5-9-15-26;;/h4-9,12-15,22-23,28H,2-3,10-11,16-21H2,1H3;2*1H
